US09126972B2
1.2: 6-Chloro-2-ethylamino-nicotinoyl fluoride
2 ml (24.8 mmol) of pyridine and 4.2 ml (49.8 mmol) of 2,4,6-trifluorotriazine were added to a suspension of 5.0 g (24.8 mmol) of 6-chloro-2-ethylamino-nicotinic acid in 125 ml of dichloromethane. The mixture was stirred for 3 hours at ambient temperature and then filtered. The solid was rinsed with 50 ml of dichloromethane and the filtrate was washed twice with 60 ml of ice-cold water. The organic phase was dried over Na2SO4 and the solvent was evaporated off under reduced pressure. 5.01 g of product were obtained in the form of an orange oil which was used without further purification.

reactant | pyridine | 24.8 mmol, 2 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,4,6-trifluorotriazine | 49.8 mmol, 4.2 ml | FN1NC(=CC(=N1)F)F | C3H2F3N3
reactant | 6-chloro-2-ethylamino-nicotinic acid | 24.8 mmol, 5.0 g | ClC1=NC(=C(C(=O)O)C=C1)NCC | C8H9ClN2O2
solvent | dichloromethane | 125 ml | ClCCl | CH2Cl2
product | 6-Chloro-2-ethylamino-nicotinoyl fluoride | 5.01 g, Yield=99% | ClC1=NC(=C(C(=O)F)C=C1)NCC | C8H8ClFN2O
